US07081449B2
A reaction mixture of 4-amino-5-oxo-8-(β-D-ribofuranosyl)pyrido[2,3-d]pyrimidine (1.8 g, 6.20 mmol) and 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane (2.15 mL, 6.73 mmol) in anhydrous pyridine (25 mL) was stirred at room temperature for 20 h and cooled with ice. Water (0.5 mL) was added, and the mixture stirred at ambient temperature for 30 min and concentrated. The residue was dissolved in ethyl acetate, washed with diluted sodium bicarbonate, dried over Na2SO4, and concentrated. Chromatography on silica (EtOAc-hexanes 3:2) gave 2.0 g of 4-amino-5-oxo-8-[3,5-O-(1,1,3,3-tetraisopropyldisiloxy)-β-D-ribofuranosyl)]pyrido[2,3-d]pyrimidine.

reactant | 4-amino-5-oxo-8-(β-D-ribofuranosyl)pyrido[2,3-d]pyrimidine | 6.20 mmol, 1.8 g | NC=1C2=C(N=CN1)N(C=CC2=O)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C12H14N4O5
reactant | 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane | 6.73 mmol, 2.15 mL | Cl[Si](O[Si](C(C)C)(C(C)C)Cl)(C(C)C)C(C)C | C12H28Cl2OSi2
reactant | Water | 0.5 mL | O | H2O
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | pyrido[2,3-d]pyrimidine | N1=CN=CC2=C1N=CC=C2 | C7H5N3
